US05158946
(c) Diphenylmethyl 3-(2,5-Dihydro-2-oxofuran-3-yl-methylthio)-7β-[2-(2-tritylaminothiazol-4-yl)-2-(Z)-methoxyiminoacetamido]ceph-3-em-4-carboxylate
A stirred solution of 2-(2-Tritylaminothiazol-4-yl)-2-(Z)-methoxyiminoacetic acid hydrochloride (287 mg) and diisopropylethylamine (0.208 ml) in dry dimethylformamide (5 ml) was cooled to -50° C. under an inert atmosphere. Treatment with methanesulfonyl chloride (0.047 ml) was followed by stirring at -50° C. for 45 min. Pyridine (0.048 ml) and a solution of diphenylmethyl-7β-amino-3-(2,5-dihydro-2-oxofuran-3-ylmethylthio)ceph-3-em-4-carboxylate (298 mg) in dimethylformamide (3 ml) were then added and the reaction allowed to warm to 0° C. The reaction was stirred at 0° C. for 90 min. before pouring into ethyl acetate/water. The ethyl acetate was separated and washed three times with water, saturated sodium bicarbonate solution, and brine before drying over magnesium sulphate. Evaporation of solvent and chromatography of the residue on silica gel(Keiselgel 7:3 ethyl acetate:hexane) gave the title compound (364 mg). υmax (CH2Cl2) 3400, 1780, and 1760cm-1 ; δH (CDCl3) 3.50 (1H, d, J 17.4Hz), 3.53 (2H, s), 3.67 (1H, d, J 17.4Hz), 4.08 (3H, s), 4.72 (2H, s), 5.08 (1H, d, J 4.7Hz), 5.88 (1H, dd, J 8.6Hz, 4.7Hz), 6.76 (1H, s), 6.83 (1H, d, J 8.8Hz), 6.90 (1H, s), 6.95 (1H, s), 7.16-7.46 (26H, m). [mass spectrum: +ve ion (3NOBA, Na+) MNa+ 942].

reactant | 2-(2-Tritylaminothiazol-4-yl)-2-(Z)-methoxyiminoacetic acid hydrochloride | 287 mg | Cl.C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)O)=N/OC
reactant | diisopropylethylamine | 0.208 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 0.047 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | diphenylmethyl-7β-amino-3-(2,5-dihydro-2-oxofuran-3-ylmethylthio)ceph-3-em-4-carboxylate | 298 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2N)=O)SCC=2C(OCC2)=O | C25H22N2O5S2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate water | C(C)(=O)OCC.O
solvent | Pyridine | 0.048 ml | N1=CC=CC=C1 | C5H5N
product | Diphenylmethyl 3-(2,5-Dihydro-2-oxofuran-3-yl-methylthio)-7β-[2-(2-tritylaminothiazol-4-yl)-2-(Z)-methoxyiminoacetamido]ceph-3-em-4-carboxylate | 364 mg | O=C1OCC=C1CSC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(\C(=N/OC)\C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)=O | C50H41N5O7S3
